US08349990B2
3-hydroxy-3-methylbutyl acetate (71):
A solution of 16 mL 3-methylbutane-1,3-diol in 10 mL methylene chloride with a catalytic amount of 4-dimethylpyridine was cooled to 0° C. Acetic anhydride (4.084 g, 40 mmol) was then added drop wise and the solution was stirred for 5 hours. An additional 10 mL of methylene chloride was added and the solution was washed with 10% aqueous ammonium chloride (2×20 mL), 5% sodium carbonate (2×20 mL) and brine (1×20 mL), dried over sodium sulfate and evaporated to dryness to yield a clear, yellow liquid. (2.402 g) 1H NMR (400 MHz, CDCl3): δ 1.24 (s, 6H), 1.56 (b, 1H), 1.80-1.83 (t, J=6.8, 2H), 2.02 (s, 3H), 4.22 (t, J=6.9, 2H).

reactant | 3-methylbutane-1,3-diol | 16 mL | CC(CCO)(C)O | C5H12O2
reactant | Acetic anhydride | 40 mmol, 4.084 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-hydroxy-3-methylbutyl acetate | C(C)(=O)OCCC(C)(C)O | C7H14O3
